US08114868B2
A foil covered flask charged with 2,2-dimethyl-3-((R)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)propanamide (20 mg, 0.04 mmol) in 1:1 CH3CN/H2O (1 mL) was treated with Phl(O2CCF3)2 (31 mg, 0.07 mmol). The reaction was complete after 24 h. The solvent was removed and the crude material purified by prep HPLC to afford (S)-6-(2-amino-2-methylpropyl)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-6-phenyl-1,3-oxazinan-2-one (16 mg). LC/MS ES+=460 (M+1). LC-MS Method 1 tR=1.06 min, m/z=460 (M+1); 1H NMR (CDCl3) 7.60 (dd, 1H, J=9 Hz, 2 Hz), 7.46 (d, 1H, J=3 Hz), 7.39-7.27 (m, 5H), 7.20 (d, 2H, J=7 Hz), 7.1 (d, 2H, J=8 Hz), 6.78 (d, 1H, J=9 Hz, 5.61 (q, 1H, J=7 Hz), 3.65 (s, 3H), 2.87 (m, 1H), 2.80 (d, 1H, J=16 Hz), 2.23 (d, 1H, J=16 Hz), 2.19-2.08 (m, 3H), 1.54 (d, 3H, J=7 Hz), 1.41 (s, 3H), 0.96 (s, 3H).

reactant | 2,2-dimethyl-3-((R)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)propanamide | 0.04 mmol, 20 mg | CC(C(=O)N)(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CN(C(C=C1)=O)C)C1=CC=CC=C1)C | C29H33N3O4
reactant | CH3CN H2O | 1 mL | CC#N.O
product | (S)-6-(2-amino-2-methylpropyl)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-6-phenyl-1,3-oxazinan-2-one | 16 mg | NC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CN(C(C=C1)=O)C)C1=CC=CC=C1)(C)C | C28H33N3O3
